US04282239
4.2 g of N-(4-[2-(1-oxo-isoindoline-2-carboxamido)-ethyl]-benzenesulfonyl)-carbamic acid methyl ester (melting point 215°-217° C., prepared from 4-(2-[1-oxo-isoindoline-2-carboxamido]-ethyl)-benzenesulfonamide and methyl chloroformate) are dissolved in 100 ml of dioxane at 50° C. and 1 g of cyclohexylamine is added. The cyclohexylamine salt of the urethane, which precipitates, dissolves slowly on boiling under reflux for one hour. The mixture is concentrated to 1/3 of its volume and the residual solution is poured onto dilute hydrochloric acid. N-(4-[2-(1-Oxo-isoindoline-2-carboxamido)-ethyl]-benzenesulfonyl)-N'-cyclohexyl-urea, which is obtained in good yield, is filtered off and recrystallized from aqueous acetone. It melts at 214°-216° C.

reactant | N-(4-[2-(1-oxo-isoindoline-2-carboxamido)-ethyl]-benzenesulfonyl)-carbamic acid methyl ester | 4.2 g | COC(NS(=O)(=O)C1=CC=C(C=C1)CCNC(=O)N1C(C2=CC=CC=C2C1)=O)=O | C19H19N3O6S
reactant | cyclohexylamine | 1 g | C1(CCCCC1)N | C6H13N
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | N-(4-[2-(1-Oxo-isoindoline-2-carboxamido)-ethyl]-benzenesulfonyl)-N'-cyclohexyl-urea | O=C1N(CC2=CC=CC=C12)C(=O)NCCC1=CC=C(C=C1)S(=O)(=O)NC(=O)NC1CCCCC1 | C24H28N4O5S
